US04473697
To a suspension of 2-nitro-4-thiocyanato-aniline, 22,3 g. of powdered iron, 50 ml. or 96% ethanol and 50 ml. of water a solution of 2,2 g. of ammonium chloride and 15 ml. of water is added dropwise under stirring at the boiling point of the mixture. Stirring is continued for a further 15 minutes, whereupon the reaction mixture is filtered until warm. To the filtrate 250 ml. of water are added. After cooling the precipitated crystals are filtered off. Thus 12.2 g. of 4-thiocyanato-1,2-diamino-benzene are obtained. Yield: 74%. M.p.: 108°-110° C.

reactant | 2-nitro-4-thiocyanato-aniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)SC#N | C7H5N3O2S
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | 4-thiocyanato-1,2-diamino-benzene | Yield: 74% | S(C#N)C1=CC(=C(C=C1)N)N | C7H7N3S
